US04205170
To 62 mg of 2-(10,11-dihydro-11-oxo dibenzo[b,f]oxepin-2-yl)-propionamide in 2 ml of ethanol were added three drops of conc. sulfuric acid and the mixture was reluxed with stirring for 4 hours. After the completion of the reaction, the solvent was distilled off to obtain the residue, to which was added ice and the resulting mixture was extracted with ethyl acetate. The extract was washed with saturated sodium hydrogencarbonate solution, then saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain brown oil, which was chromatographed over silica gel, eluted with chloroform and there was obtained 58 mg of ethyl 2-(10,11-dihydro-11-oxo dibenzo[b,f]oxepin-2-yl)-propionate as pale yellow oil.

reactant | 2-(10,11-dihydro-11-oxo dibenzo[b,f]oxepin-2-yl)-propionamide | 62 mg | O=C1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)C(C(=O)N)C | C17H15NO3
reactant | ethanol | 2 ml | C(C)O | C2H6O
catalyst | sulfuric acid | three drops | S(O)(O)(=O)=O | H2O4S
product | ethyl 2-(10,11-dihydro-11-oxo dibenzo[b,f]oxepin-2-yl)-propionate | 58 mg | O=C1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)C(C(=O)OCC)C | C19H18O4
